US04591583
Sodium methyl benzyloxycarbonylphosphonate
3.66 g of dimethyl benzyloxycarbonylphosphonate and 2.25 g of sodium iodide were stirred in 25 ml of dry tetrahydrofuran for 3 days. The precipitate was filtered, washed with ether and dried in a desiccator. Colourless, hygroscopic crystals of the title compound were obtained (3.15 g, 82%). By t.l.c. (polyethyleneimine, 1M LiCl, molybdate spray) the compound was estimated to contain <0.4% of trisodium oxycarbonylphosphonate.

reactant | dimethyl benzyloxycarbonylphosphonate | 3.66 g | C(C1=CC=CC=C1)OC(=O)P(OC)(OC)=O | C10H13O5P
reactant | sodium iodide | 2.25 g | [I-].[Na+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | Sodium methyl benzyloxycarbonylphosphonate | C(C1=CC=CC=C1)OC(=O)P(OC)([O-])=O.[Na+] | InChI=1S/C9H11O5P.Na/c1-13-15(11,12)9(10)14-7-8-5-3-2-4-6-8;/h2-6H,7H2,1H3,(H,11,12);/q;+1/p-1
